US05747516
Step B: Preparation of Dimethyl [2-(3-methoxyphenoxy)phenyl]propanedioate
Methyl 2-(3-methoxyphenoxy)phenylacetate (6.81 g) was dissolved in 11 mL of dimethyl carbonate and 600 mg of sodium was added. The mixture was heated at reflux for 10 h, then cooled. The reaction mixture was quenched with water, acidified with concentrated aqueous HCl and extracted with dichloromethane. The combined organic extracts were dried (MgSO4), filtered and concentrated under reduced pressure to give an oil. The desired material was separated from unreacted starting material by flash chromatography (4:1 hexane: ethyl acetate as eluant) to yield after concentration, 3.54 g (43%) of the title compound of Step B. 1H NMR (CDCl3): δ7.46(dd,J=1.5,7.5Hz,1H), 7.29 (t,J=8Hz,1H), 7.2 (m,2H), 6.92 (d,J=8Hz,1H), 6.65 (td, J=1.5,7.5Hz,1H), 6.5 (m,2H), 5.14 (s,1H), 3.77 (s,3H), 3.73 (s,6H).

reactant | Methyl 2-(3-methoxyphenoxy)phenylacetate | 6.81 g | COC=1C=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC1 | C16H16O4
reactant | sodium | 600 mg | [Na] | Na
solvent | dimethyl carbonate | 11 mL | C(OC)(OC)=O | C3H6O3
product | Dimethyl [2-(3-methoxyphenoxy)phenyl]propanedioate | COC=1C=C(OC2=C(C=CC=C2)C(C(=O)OC)C(=O)OC)C=CC1 | C18H18O6
